US07030139B2
20E: N-Cyclohexyl-1-(cyclopropylmethyl)-2-(4-ethoxybenzyl)-N-methyl-1H-benzimidazole-5-carboxamide
1-(Cyclopropylmethyl)-2-(4-ethoxybenzyl)-1H-benzimidazole-5-carboxylic acid (80 mg, 0.228 mmol) was dissolved in DMF (2 mL) and then HATU (104 mg, 0.274 mmol) was added followed by DIPEA (48 μL, 0.274 mmol). After stirring for 10 min; cyclohexylmethyl amine (0.456 mmol) was added and the resulting mixture was stirred overnight. The mixture was diluted with EtOAc (50 mL), washed with saturated NaHCO3 (2×10 mL) and then H2O (2×10 mL), dried over MgSO4, and concentrated to give a crude amide. The crude residue was purified by silica gel column chromatography to give pure product which was treated with 1 M HCl solution in diethyl ether to form a HCl salt as white solids (93 mg, 78%). 1H NMR (400 MHz, CD3OD): δ 7.66 (s, 1H), 7.58 (d, J=8.0 Hz, 1H), 7.30 (d, J=8.0 Hz, 1H), 7.16 (d, J=8.6 Hz, 2H), 6.84 (d, J=8.6 Hz, 2H), 4.30 (s, 2H), 4.10–4.04 (m, 5H), 3.96 (q, J=7.6 Hz, 2H), 3.66–3.54 (m, 1H), 1.90–1.50 (m, 10H), 1.33 (t, J=7.6 Hz, 3H), 1.10–0.98 (m, 1H), 0.50–0.42 (m, 2H), 0.32–0.27 (m, 2H). MS (ESI) (M+H)+=446. Anal. Calcd for C28H35N3O2.2.2HCl: C, 63.96; H, 7.13; N, 7.99. Found: C, 64.11; H, 7.24; N, 7.73.

reactant | 1-(Cyclopropylmethyl)-2-(4-ethoxybenzyl)-1H-benzimidazole-5-carboxylic acid | 0.228 mmol, 80 mg | C1(CC1)CN1C(=NC2=C1C=CC(=C2)C(=O)O)CC2=CC=C(C=C2)OCC | C21H22N2O3
reactant | HATU | 0.274 mmol, 104 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIPEA | 0.274 mmol, 48 μL | CCN(C(C)C)C(C)C | C8H19N
reactant | cyclohexylmethyl amine | 0.456 mmol | C1(CCCCC1)CN | C7H15N
reactant | HCl | 1 M | Cl | ClH
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | 50 mL | CCOC(=O)C | C4H8O2
solvent | diethyl ether | C(C)OCC | C4H10O
product | N-Cyclohexyl-1-(cyclopropylmethyl)-2-(4-ethoxybenzyl)-N-methyl-1H-benzimidazole-5-carboxamide | 93 mg, 78% | C1(CCCCC1)N(C(=O)C1=CC2=C(N(C(=N2)CC2=CC=C(C=C2)OCC)CC2CC2)C=C1)C | C28H35N3O2
